US09371321B2
Preparation 15: tert-Butyl (R)-4-(5-((S)-1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate
To a 50 mL pear flask were added 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (30.5 mg, 0.181 mmol) and tert-butyl (R)-4-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate (45 mg, 0.120 mmol) in DMSO (0.60 mL). Triethylamine (84 μL, 0.60 mmol) was added, and the mixture was stirred at 80° C. for 2 hours. Additional triethylamine (84 μL, 0.602 mmol) and 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (10 mg, 0.060 mmol) were added and the mixture was heated for another 3 hours at 80° C. The cooled mixture was partitioned between saturated NaHCO3 and ethyl acetate. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over MgSO4, filtered, and concentrated. The residue was purified by liquid chromatography (SiO2, 25-100% EtOAc/heptanes gradient) to give the title compound as a white solid (51 mg, 84%). 1H NMR (400 MHz, CDCl3) δ ppm 1.48-1.52 (m, 12H), 1.54 (d, J=6.82 Hz, 3H), 2.39 (s, 3H), 2.79-2.86 (m, 1H), 2.89-3.09 (m, 3H), 3.35 (br s, 1H), 3.78 (s, 3H), 4.05 (d, J=9.85 Hz, 1H), 4.34 (br s, 1H), 5.27 (br s, 1H), 5.94 (quin, J=6.76 Hz, 1H), 6.66 (d, J=3.28 Hz, 1H), 7.24 (d, J=3.28 Hz, 1H), 7.31 (d, J=7.83 Hz, 1H), 7.40 (s, 1H); ESI-MS m/z [M+H]+ calc'd for C26H35N9O2, 506. found 506.

reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 0.181 mmol, 30.5 mg | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | tert-butyl (R)-4-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate | 0.120 mmol, 45 mg | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2C[C@H](N(CC2)C(=O)OC(C)(C)C)C | C20H31N5O2
reactant | Triethylamine | 0.60 mmol, 84 μL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.602 mmol, 84 μL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 0.060 mmol, 10 mg | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
solvent | DMSO | 0.60 mL | CS(=O)C | C2H6OS
product | tert-Butyl (R)-4-(5-((S)-1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2-methylpiperazine-1-carboxylate | 51 mg, 84% | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2C[C@H](N(CC2)C(=O)OC(C)(C)C)C)C#N)C | C26H35N9O2
